US07576086B2
A mixture of 4-nitrobenzylchlorine and piperazine was treated according to the general preparation 1 to obtain N-(4-nitrobenzyl) piperazine dihydrochloride, yield 64%, mp 242-244° C. The N1-(4-nitrobenzyl)-N4-[(4-acetamido) phenacyl] piperazine dihydrochloride (0.75 g, 1.5 mmol) could be preparated according to the general preparation 2, and then reduced according to the general preparation 3 to obtain 0.61 g of the title compound, yield 80%, mp 150-151° C.).

reactant | 4-nitrobenzylchlorine | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | N-(4-nitrobenzyl) piperazine dihydrochloride | yield 64% | Cl.Cl.[N+](=O)([O-])C1=CC=C(CN2CCNCC2)C=C1 | InChI=1S/C11H15N3O2.2ClH/c15-14(16)11-3-1-10(2-4-11)9-13-7-5-12-6-8-13;;/h1-4,12H,5-9H2;2*1H
